US06150526
In an analogous manner to that described in Example 1(f), by reacting (3RS,4RS,5SR)-5-hydroxymethyl-4-(4-hydroxy-phenyl)-piperidin-3-ol hydrobromide with di-tert-butyl dicarbonate there was obtained tert-butyl (3RS,4RS,5SR)-3-hydroxy-5-hydroxymethyl-4-(4-hydroxy-phenyl)-piperidine-1-carboxylate as a colourless foam.

reactant | (3RS,4RS,5SR)-5-hydroxymethyl-4-(4-hydroxy-phenyl)-piperidin-3-ol hydrobromide | Br.OCC1C(C(CNC1)O)C1=CC=C(C=C1)O
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl (3RS,4RS,5SR)-3-hydroxy-5-hydroxymethyl-4-(4-hydroxy-phenyl)-piperidine-1-carboxylate | OC1CN(CC(C1C1=CC=C(C=C1)O)CO)C(=O)OC(C)(C)C | C17H25NO5
